US06465459B2
To ethanol (15 mL) was added 4-[[2-(3-aminophenoxy)-6-(5-cyano-2-phenyl-methoxyphenoxy)-3,5-difluoropyridin-4-yl]oxy]-3-methoxybenzoic acid, ethyl ester (0.50 g, 0.80 mmol), cyanamide (0.60 g, 14 mmol), and 6 M hydrochloric acid (0.7 mL). After refluxing for 19 hours, cyanamide (0.60 g, 14 mmol) and 6 M hydrochloric acid (0.7 mL) was added and refluxing was continued for 4 hours. The reaction mixture was concentrated in vacuo and purified by HPLC to give 4-[[2-[3-(guanidino)phenoxy)-6-(5-cyano-2-benzyloxyphenoxy)-3,5-difluoro-pyridin-4-yl)oxy]-3-methoxy]benzoic acid, ethyl ester.

reactant | 4-[[2-(3-aminophenoxy)-6-(5-cyano-2-phenyl-methoxyphenoxy)-3,5-difluoropyridin-4-yl]oxy]-3-methoxybenzoic acid, ethyl ester | 0.80 mmol, 0.50 g | NC=1C=C(OC2=NC(=C(C(=C2F)OC2=C(C=C(C(=O)OCC)C=C2)OC)F)OC2=C(C(=CC(=C2)C#N)OC)C2=CC=CC=C2)C=CC1 | C35H27F2N3O7
reactant | cyanamide | 14 mmol, 0.60 g | N#CN | CH2N2
reactant | hydrochloric acid | 6 M, 0.7 mL | Cl | ClH
reactant | cyanamide | 14 mmol, 0.60 g | N#CN | CH2N2
reactant | hydrochloric acid | 6 M, 0.7 mL | Cl | ClH
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | benzoic acid, ethyl ester | C(C1=CC=CC=C1)(=O)OCC | C9H10O2
